US05082917
In this example, 139 cc of a Ni-Fe-Cu-Mn catalyst (1/8" diameter) were charged to an 0.815" ID tubular upward flow reactor. A liquid feed containing 2-amino-2-methyl-1-propanol and tetraglyme (a tetraethylene glycol dimethyl ether solvent) (1/1.18 by weight) was pumped through the catalyst bed at a rate of 0.12 lb/hr at 240° C. Hydrogen was also passed through the reactor at a rate of about 6 L/hr. The pressure was maintained at 800 psig. The products were collected. GLC analysis showed that a 62% yield of 2,2,5,5-tetramethylpiperazine and a 14% yield of 3,3,6,6-tetramethyl-2-piperazinone were obtained with a 90% conversion of 2-amino-2-methyl-1-propanol. The resulting reaction mixture was fractionally distilled at atmospheric pressure under nitrogen. Both products were further recrystallized from ether.

reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
reactant | Hydrogen | [H][H] | H2
solvent | tetraethylene glycol dimethyl ether | COCCOCCOCCOCCOC | C10H22O5
product | 2,2,5,5-tetramethylpiperazine | 62% yield | CC1(NCC(NC1)(C)C)C | C8H18N2
